Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Compazine
 
Attending: ___.
 
Chief Complaint:
Seizure
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ woman with a history of
migraine and epigastric pain who presented following a witnessed
episode of altered mental status, "foaming at the mouth" and
shaking of all four extremities while recovering from procedural
sedation for an upper endoscopy today. 

Per the anesthesia event note, "Patient was sleepy but suddenly
became agitated and shaking all over. Patient was noted to be 
AMS
and salivating. Patient was not responding to any commands but
shaking quickly stopped".. and "Per family at bedside patient 
has
had these types of episodes in the past when she was fasting or
when her blood sugar was low (however, family denies that 
patient
is diabetic). Bedside glucose was 81 mg/dL. Patient was treated
with dextrose 12.5 g and 500 cc bolus of NS. Mental status
improved and she became oriented to name but quickly became
confused again."

She was transferred to the ED where she was at baseline. Some
history was obtained from her family while the patient was in 
the
CT scanner. Her friend ___ also witnessed the event, and 
reports that she is aware of at least 3 similar episodes. Today,
as she was just waking up from procedural sedation, she had
"curling up of her limbs" and demonstrated dystonic posturing of
her wrists and fingers, which lasted ~30 seconds and were
followed by extension of all four extremities (in classic tonic
extensor pusturing, which she demonstrated) which lasted for ~15
seconds, followed by synchronous jerking movements of all of her
limbs for 30 seconds. There was also right head turn, and
"foaming" at the mouth. She was then somnolent but able to 
follow
simple commands, and after about 5 minutes was able to speak. 

___ reports that she has witnessed 3 similar episodes. The 
most
recent was ~3 months ago while she was at her PCP's office at
___. They report her blood glucose was 64 on that
occasion. The semiology was identical. Her confusion reportedly
improved significantly after recieving dextrose. Another episode
4 months ago occurred while at the gym. She had just consumed a
"thermogenic" energy drink and was on the stair machine when she
had another episode where she fell to the ground (though did not
injure herself), had flexion and dystonic posturing of the
extremities, then shaking. The fire deparement came and she was
given sports drinks and returned to baseline quickly. 8 months
ago she had another episode while at the park. She had not eaten
for several hours and had an identical-semiology episode, though
this time with urinary incontinence and tongue-bite. EMS found
her blood glucose to be 47 (reportedly). 

___ herself reports that these episodes started ___ years 
ago
when she came to the ___ from ___, and have 
recently
been far greater in number than her friend ___ is aware. She
says that between ___ to ___ she had
approximately one every month. She was seen by Dr. ___ in
___ for evaluation of these episodes, and EEG was recommended
but she never followed-up. 

She has a history of hypoglycemia which she says runs in her
family. She recently has had GI problems and epigastric pain 
that
she says has limited the amount she can eat. Most of the 
episodes
she describes occurred in the setting of not eating enough food,
and her subsequent confusion would improve significantly
following food. She has never been formally evaluated for
epilepsy nor been on any medications. She has a maternal aunt
with epilepsy. 

During interview in the ED, she was briefly left to use the
toilet to urinate (though accompanied by her two friends) and 
she
lost consciousness and collapsed to the ground in front of the
toilet. She did not strike her head and simply fell downwards
onto her bottom. She was helped back to bed, and said she felt
very lightheaded and nauseated preceding the episode. Her blood
glucose was checked and 94. ___ minutes later she had an episode
of extremity flexion with dystonic posturing, right head 
version,
and very brief high-frequency, 4-5cm amplitude shaking of her
flexed extremities (which I witnessed). The shaking lasted less
than 10 seconds and she was able to follow simple commands to
track my gaze, turn her head, and open/close her eyes. She was
confused and would answer any questions with ___ for the next
minute, then began crying. 

She said "I need food" and was given small sips of apple juice,
and over the next ___ minutes returned to baseline and was able
to take crackers, and ___ minutes later able to converse 
normally
and resume the interview. 

ROS:
She is aware of 1 episode of losing consciousness when she was 
___.
Otherwise, had no other similar episodes until she was in her
late ___. No history is available regarding febrile seizures. 

No recent fevers, cough, cold/URI, dysuria. 

 
Past Medical History:
Epigastric pain
Migraines

Allergies - compazine
 
Social History:
___
Family History:
Maternal aunt with epilepsy. Different maternal aunt with rectal
cancer. Multiple family members with hypoglycemia.
 
Physical Exam:
-Vitals: T:97.8  BP:112/62  HR:63  RR:15  SaO2:98%

-General: Awake, cooperative, NAD.
-HEENT: NC/AT. No scleral icterus noted. MMM. No lesions noted 
in
oropharynx.
-Neck: Supple. No carotid bruits appreciated. No nuchal 
rigidity.
-Cardiac: Well perfused. 
-Pulmonary: Breathing comfortably on room air.
-Extremities: No cyanosis, clubbing, or edema bilaterally. 
-Skin: No rashes or other lesions noted.

NEUROLOGIC EXAM: (See HPI for ___ exam.)
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Language is fluent with intact repetition 
and
comprehension. Normal prosody. There are no paraphasic errors.
Able to name both high and low frequency objects.  Able to read
without difficulty. Speech is not dysarthric. Able to follow 
both
midline and appendicular commands. 

-Cranial Nerves:
II: PERRL 3 to 2mm and brisk. 
III, IV, VI: EOMI without nystagmus. 
VII: No facial droop, facial musculature symmetric.
VIII: Hearing grossly intact to speech.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___      ___   5    5  5     5    
R  5    ___      ___   5    5  5     5    

-Sensory: No deficits to light touch throughout. 

-DTRs: ___. 

-Coordination: No intention tremor. No dysmetria on FNF.

-Gait: Deferred given fall. 
 
Pertinent Results:
___ 07:19PM   ___ COMMENTS-GREEN TOP
___ 07:19PM   LACTATE-1.4
___ 06:50PM   GLUCOSE-90 UREA N-12 CREAT-0.7# SODIUM-140 
POTASSIUM-4.1 CHLORIDE-107 TOTAL CO2-18* ANION GAP-15
___ 06:50PM   estGFR-Using this
___ 06:50PM   CALCIUM-8.3* PHOSPHATE-3.1 MAGNESIUM-1.9
___ 06:50PM   WBC-7.0 RBC-4.23 HGB-12.7 HCT-38.6 MCV-91 
MCH-30.0 MCHC-32.9 RDW-12.6 RDWSD-42.0
___ 06:50PM   NEUTS-57.9 ___ MONOS-4.4* EOS-0.4* 
BASOS-0.6 IM ___ AbsNeut-4.03 AbsLymp-2.55 AbsMono-0.31 
AbsEos-0.03* AbsBaso-0.04
___ 06:50PM   PLT COUNT-155
___ 06:50PM   ___ PTT-31.0 ___
___ 05:00PM   GLUCOSE-38*
___ 05:00PM   UREA N-4* CREAT-<0.2* SODIUM-146 
POTASSIUM-<1.5* CHLORIDE-135* TOTAL CO2-6* ANION GAP-5*
___ 05:00PM   ALT(SGPT)-<5 AST(SGOT)-<5 ALK PHOS-15* TOT 
BILI-<0.2
___ 05:00PM   cTropnT-<0.01
___ 05:00PM   ALBUMIN-0.8* CALCIUM-1.9* PHOSPHATE-0.7* 
MAGNESIUM-0.4*
___ 05:00PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 05:00PM   WBC-2.5* RBC-1.33* HGB-3.9* HCT-12.6* MCV-95 
MCH-29.3 MCHC-31.0* RDW-12.8 RDWSD-44.2
___ 05:00PM   PLT COUNT-55*
 
Brief Hospital Course:
___ is a ___ woman with a history of 
migraines and epigastric pain who presents with possible seizure 
following  endoscopy with sedation, followed by a fall and 
recurrent brief seizure in the ED. 

#Seizure-like episodes
These witnessed events consisted of right head turn, arm 
flexion, dystonic
posturing of the hands; followed by tonic extension, then limb
shaking. She has had at least 4 witnessed similar events in the 
last year
(some with tongue bite and urinary incontinence). She has been 
seen by Dr. ___ in ___ for these events (but didn't 
follow-up), and herself reports events of loss of consciousness 
for the last ___ years. Some of these episodes have been in the 
setting of hypoglycemia, however the witnessed events in the ED 
occurred with normal blood glucose. She was hooked up to cvEEG 
briefly but further work-up was deferred because the patient 
wanted to leave. 

Transitional Issues:
-follow-up in epilepsy clinic with Dr. ___ need repeat eeg
-MRI to look for underlying mass
-hypoglycemia work-up per PCP/endocrine
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Pantoprazole 40 mg PO Q24H 

 
Discharge Medications:
1.  LevETIRAcetam 500 mg PO BID 
RX *levetiracetam 500 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*3 
2.  Pantoprazole 40 mg PO Q24H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Seizures vs. hypoglycemic episodes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital due to concern for seizures. 
You have had similar episodes in the past when your blood sugar 
has been low. We would like you to follow-up with us in clinic 
to help determine if these are actually seizures and the best 
way to manage them and get them under control. We have started 
you on a medication called keppra, to help prevent these 
seizures in the meantime.

Thank you for involving us in your care.

Sincerely,

___ Neurology
 
Followup Instructions:
___